US04803221
29A. 10-(1-H-Imidazol-1-yl)-9-anthracencarbaldehyde
A solution of 10-chloro-9-anthraldehyde (Aldrich, 15 g, 0.062 mol), imidazole (Aldrich, 10.2 g, 0.15 mmol) and DMF (300 mL) was warmed to 55° and treated with KotBu (MCB, 7.0 g, 0.07 mol) and stirred for 30 min. The reaction mixture was poured into 0.1N NaOH (1.5 L). The precipitate was filtered and then chromatographed on a plug of SiO2 (500 g) using CH2Cl2 (3 L) as the initial eluting solvent to remove starting material and byproducts. The yellow product band was then eluted with EtOAc (2 L) to yield, after removal of solvent and drying, 12.29 g (73%) of 10-(1H-imidazol-1-yl)-9-anthracenecarbaldehyde mp 194°-196°, (C, H, N), (EtOAc).

reactant | 10-chloro-9-anthraldehyde | 0.062 mol, 15 g | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
reactant | imidazole | 0.15 mmol, 10.2 g | N1C=NC=C1 | C3H4N2
reactant | NaOH | 0.1N, 1.5 L | [OH-].[Na+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 10-(1-H-Imidazol-1-yl)-9-anthracencarbaldehyde | N1(C=NC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C18H12N2O
